Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
L wrist pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old otherwise healthy male presents to ED with 1 day 
history of L wrist pain.  Patient states that he was walking 
across the street yesterday when he suffered a mechanical fall, 
landing on his outstretched L hand.  He experienced immediate 
onset of pain but did not present to the hospital until today.  
He denies numbness or tingling in his fingers or any other 
symptoms.
 
Past Medical History:
Glaucoma
 
Social History:
___
Family History:
NC
 
Physical Exam:
A&O x 3 
Calm and comfortable 
  
LUE
Skin clean and intact
No visible deformity.  Diffuse tenderness surrounding the wrist. 
No erythema, edema, induration or ecchymosis 
Arms and forearm compartments soft 
Axillary, Radial, Median, Ulnar SILT 
EPL FPL EIP EDC FDP FDS fire 
Fingers WWP
 
Pertinent Results:
___ 05:38AM BLOOD WBC-8.8# RBC-4.53* Hgb-14.1 Hct-40.1 
MCV-89 MCH-31.0 MCHC-35.1* RDW-13.3 Plt ___
___ 05:38AM BLOOD ___ PTT-27.0 ___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left distal radius fracture and was admitted to the 
orthopedic surgery service.  The patient was reduced and 
splinted during this admission, but otherwise treated 
non-operatively. The patient will have outpatient follow-up for 
assessment and evaluation for any possible surgery intervention 
following discharge.  The patients home medications were 
continued throughout this hospitalization.  The ___ 
hospital course was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, and the patient was 
voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the left upper extremity.  The patient will 
follow up with Dr. ___ in the hand clinic. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course, and all questions were answered 
prior to discharge.
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*2
2. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*30 Tablet Refills:*2
3. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet 
extended release(s) by mouth every 6 hours Disp #*60 Tablet 
Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L distal radius fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ACTIVITY AND WEIGHT BEARING:
- Nonweightbearing left upper extremity.
- Please remain in your splint and refrain from getting your 
splint wet until your follow up appointment.
 
Followup Instructions:
___